US09353107B2
Step-iii: 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (85 mg, 0.155 mmol) was deprotected in TFA/toluene (2.5/5 ml). This afforded 14 mg (20.2% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.576-8.571 (d, 1H), 8.46-8.45 (d, 1H), 7.90 (s, 1H), 7.81 (s, 1H), 7.73-7.71 (m, 3H), 7.48-7.46 (d, 2H), 7.25-7.20 (m, 2H), 7.14-7.07 (m, 3H), 7.48-7.43 (t, 2H), 3.56-3.52 (d, 2H), 3.22-3.15 (m, 4H), 3.07-2.98 (dt, 1H), 2.17-2.13 (d, 2H), 2.06-1.91 (m, 2H). MS: m/z=448.4 (M+1), HPLC: 91.78% in method B.

reactant | tert-butyl 4-(4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.155 mmol, 85 mg | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C34H37N5O2
solvent | TFA toluene | 5 ml | C(=O)(C(F)(F)F)O.C1(=CC=CC=C1)C
product | 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 14 mg, 20.2% yield | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)C2CCNCC2 | C29H29N5
